US08198279B2
1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(3-(3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea (AA-006)
Method F2 was used with 8-(3-aminophenoxy)pyrido[2,3-b]pyrazin-3(4H)-one and 3-tert-butyl-5-isocyanato-1-p-tolyl-1H-pyrazole to afford the title compound as a white solid (46 mg, 65%).

reactant | 8-(3-aminophenoxy)pyrido[2,3-b]pyrazin-3(4H)-one | NC=1C=C(OC2=CC=NC=3NC(C=NC32)=O)C=CC1 | C13H10N4O2
reactant | 3-tert-butyl-5-isocyanato-1-p-tolyl-1H-pyrazole | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C1=CC=C(C=C1)C | C15H17N3O
product | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(3-(3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea | 46 mg, 65% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC(=CC=C1)OC1=CC=NC=2NC(C=NC21)=O)C2=CC=C(C=C2)C | C28H27N7O3
